US09145429B2
A mixture of 6-chloro-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinonitrile (180 mg, 0.58 mmol), benzo[c][1,2]oxaborole-1,5(3H)-diol (87 mg, 0.58 mmol) and Cs2CO3 (228 mg, 0.7 mmol) in DMSO (20 mL) was stirred at 40° C. for 1 hr, the mixture was diluted by water, extracted by EtOAc, the organic layer was concentrated in vacuo and the residue was purified by prep. HPLC (column: Gemini 100×21.2 mm, 5 g; liquid phase: [A-H2O; B—CH3CN+0.4% NH4OH] B %:45%-65%, 15 min) to afford 6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinonitrile (170 mg, 69%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 9.24 (s, 1H), 8.73 (s, 1H), 7.79-7.77 (d, 1H), 7.31-7.31 (d, 1H), 7.23-7.21 (q, 1H), 4.97 (s, 2H), 4.14-4.11 (t, 2H), 3.47-3.45 (t, 2H), 3.43-3.37 (m, 1H), 0.98-0.96 (d, 6H).

reactant | 6-chloro-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinonitrile | 0.58 mmol, 180 mg | ClC1=NC(=C(C#N)C=C1C(F)(F)F)OCCOC(C)C | C12H12ClF3N2O2
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | 0.58 mmol, 87 mg | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
reactant | Cs2CO3 | 0.7 mmol, 228 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 6-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)-5-(trifluoromethyl)nicotinonitrile | 170 mg, 69% | OB1OCC2=C1C=CC(=C2)OC2=NC(=C(C#N)C=C2C(F)(F)F)OCCOC(C)C | C19H18BF3N2O5
